US07655666B2
A solution of 5-acetyl-2-amino-4-trifluoromethyl-benzoic acid methyl ester (10.2 g, 39.0 mmol) in THF (250 mL) was treated with (CCl3O)2CO (3.86 g, 12.9 mmol) and the mixture was stirred at r.t. for 15 min under nitrogen. To this solution was added Et3N (5.55 mL, 39.0 mmol) and the mixture was stirred for another 3 h at r.t. The mixture was then treated with CH3SO2NHNH2 (4.38 g, 39.0 mmol) and stirred for 1 h at r.t. Aqueous sodium hydroxide (1M, 78 mL, 78.0 mmol) was subsequently added and the solution was stirred for 18 h at r.t. The mixture was acidified with aqueous hydrochloric acid (4N) until pH=3-4, and then diluted with EtOAc. It was then washed once with water, and the organic phase was then dried over anhydrous sodium sulfate, filtered and concentrated until the product precipitated. The suspension was then cooled to 0° C., and then filtered. The white solid was dried in vacuo to give N-(6-acetyl-2,4-dioxo-7-trifluoromethyl-1,4-dihydro-2H-quinazolin-3-yl)-methanesulfonamide (12.1 g, 33.2 mmol, 85%), m.p. 258-265° C., ESI-MS: m/z 366 [M+H]+.

reactant | 5-acetyl-2-amino-4-trifluoromethyl-benzoic acid methyl ester | 39.0 mmol, 10.2 g | COC(C1=C(C=C(C(=C1)C(C)=O)C(F)(F)F)N)=O | C11H10F3NO3
reactant | Et3N | 39.0 mmol, 5.55 mL | CCN(CC)CC | C6H15N
reactant | CH3SO2NHNH2 | 39.0 mmol, 4.38 g | CS(=O)(=O)NN | CH6N2O2S
reactant | sodium hydroxide | 78.0 mmol, 1M, 78 mL | [OH-].[Na+]
reactant | hydrochloric acid | 4N | Cl | ClH
solvent | THF | 250 mL | C1CCOC1 | C4H8O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | N-(6-acetyl-2,4-dioxo-7-trifluoromethyl-1,4-dihydro-2H-quinazolin-3-yl)-methanesulfonamide | 33.2 mmol, 12.1 g, 85% | C(C)(=O)C=1C=C2C(N(C(NC2=CC1C(F)(F)F)=O)NS(=O)(=O)C)=O | C12H10F3N3O5S
